US07371765B2
Using an analogous procedure to that described in Example 1, 4-chloro-6-cyano-7-(2-(1,2,3-triazol-1-yl)ethoxy)quinoline (60 mg, 0.2 mmol) was reacted with 5-aminoindole (32 mg, 0.25 mmol) to give 6-cyano-4-(indol-5-ylamino)-7-(2-(1,2,3-triazol-1-yl)ethoxy)quinoline (74 mg, 86%).

reactant | 4-chloro-6-cyano-7-(2-(1,2,3-triazol-1-yl)ethoxy)quinoline | 0.2 mmol, 60 mg | ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCN1N=NC=C1 | C14H10ClN5O
reactant | 5-aminoindole | 0.25 mmol, 32 mg | NC=1C=C2C=CNC2=CC1 | C8H8N2
product | 6-cyano-4-(indol-5-ylamino)-7-(2-(1,2,3-triazol-1-yl)ethoxy)quinoline | 74 mg, 86% | C(#N)C=1C=C2C(=CC=NC2=CC1OCCN1N=NC=C1)NC=1C=C2C=CNC2=CC1 | C22H17N7O
